US08609674B2
2-(((1S,2R,5S)-6,6-dimethylbicyclo[3.1.1]heptan-2-yl)methylthio)propanoic acid
To a solution of ((1S,2R,5S)-6,6-dimethylbicyclo[3.1.1]heptan-2-yl)methanethiol (Eisen, Moris; et al. Inorg. Chim. Acta 1991, 188, 167-176) (52.0 g, 0.30 mmol) and potassium hydroxide (41.2 g, 0.62 mmol) in water (200 mL) was added α-chloro-propionic acid (33.2 g, 0.306 mmol) drop wise. The mixture was heated at 100° C. for 1 hour. The mixture was cooled and acidified to pH=1 with 6N HCl (100 mL). The product was extracted with ether, dried with magnesium sulfate and concentrated. The residue was distilled at reduced pressure (143-147° C., 0.5 mm of Hg) to obtain the title compound.

reactant | ((1S,2R,5S)-6,6-dimethylbicyclo[3.1.1]heptan-2-yl)methanethiol | 0.30 mmol, 52.0 g | CC1([C@H]2CC[C@H]([C@@H]1C2)CS)C | C10H18S
reactant | potassium hydroxide | 0.62 mmol, 41.2 g | [OH-].[K+]
reactant | α-chloro-propionic acid | 0.306 mmol, 33.2 g | ClC(C(=O)O)C | C3H5ClO2
reactant | HCl | 6N, 100 mL | Cl | ClH
solvent | water | 200 mL | O | H2O
product | 2-(((1S,2R,5S)-6,6-dimethylbicyclo[3.1.1]heptan-2-yl)methylthio)propanoic acid | CC1([C@H]2CC[C@H]([C@@H]1C2)CSC(C(=O)O)C)C | C13H22O2S
